US08431563B2
A 150-mL reaction vessel was charged with benzyl 3-(prop-1-yn-1-yl)piperazine-1-carboxylate (2.88 g, 11.2 mmol), 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (4.36 g, 13.5 mmol, Bioorg. Med. Chem. Lett. 2002, 12, 3009), dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine, RuPhos (0.530 g, 1.14 mmol, Sigma-Aldrich, St. Louis, Mo.), RuPhos Palladacycle (0.417 g, 0.572 mmol, Strem Chemical Inc, Newburyport, Mass.), sodium tert-butoxide (2.73 g, 28.4 mmol, Strem Chemical Inc, Newburyport, Mass.) and toluene (35 mL). The mixture was degassed by bubbling Ar through the solution for 10 min. The vessel was sealed and heated at 100° C. for 1.5 h. The reaction mixture was cooled to room temperature and water (100 mL) was added. The aqueous phase was extracted with EtOAc (3×100 mL) and the combined organic phases were washed with saturated aqueous sodium chloride (150 mL). The organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (100 g of silica, 0 to 50% EtOAc in hexanes) to afford benzyl 3-(1-propyn-1-yl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate as a yellow solid.

reactant | benzyl 3-(prop-1-yn-1-yl)piperazine-1-carboxylate | 11.2 mmol, 2.88 g | C(#CC)C1CN(CCN1)C(=O)OCC1=CC=CC=C1 | C15H18N2O2
reactant | 2-(4-bromophenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 13.5 mmol, 4.36 g | BrC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H5BrF6O
reactant | dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
reactant | RuPhos | 1.14 mmol, 0.530 g | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C30H43O2P
reactant | sodium tert-butoxide | 28.4 mmol, 2.73 g | CC(C)([O-])C.[Na+]
catalyst | RuPhos Palladacycle | 0.572 mmol, 0.417 g | CC(C)OC1=C(C(=CC=C1)OC(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4.CC(C)(C)OC.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-(1-propyn-1-yl)-4-(4-(2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl)phenyl)-1-piperazinecarboxylate | C(#CC)C1CN(CCN1C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C(=O)OCC1=CC=CC=C1 | C24H22F6N2O3
